US07473699B2
Intermediate 22: 1-(2-Fluoro-4-nitro-phenyl)-4-methyl-[1,2,3]-triazole
A mixture of 4-methyl-[1,2,3]-triazole (60 g, 0.72 mol), K2HPO4 (250 g, 1.44 mol) and 3,4-difluoronitrobenzene (80 ml, 0.723 mol) in DMF (3.4 litres) was stirred at 85° C. under N2 for 2.5 days. After removal of DMF in vacuo, the residue was chromatographed on silica gel with 0-5% ethyl acetate in dichloromethane to give the title compound as a light yellow solid (38.3 g, 24%). The other two isomers were also isolated.

reactant | 4-methyl-[1,2,3]-triazole | 0.72 mol, 60 g | CC=1N=NNC1 | C3H5N3
reactant | K2HPO4 | 1.44 mol, 250 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-difluoronitrobenzene | 0.723 mol, 80 ml | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 3.4 litres | CN(C)C=O | C3H7NO
product | 1-(2-Fluoro-4-nitro-phenyl)-4-methyl-[1,2,3]-triazole | 38.3 g, 24% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=NC(=C1)C | C9H7FN4O2
